US09193689B2
To 4-bromophenyl acetylchloride (300 mg, 1.28 mmol) in CH2Cl2 (5 mL) was added 3-(tert-Butyl-diphenyl-silanyloxy)-azetidine (399 mg, 1.28 mmol), DIPEA (670 μL, 3.85 mmol) and the reaction stirred at RT for 2 h. The crude material was purified by silica gel column chromatography, eluting with isohexane and increasing the polarity to 80% EtOAc/isohexane to obtain 2-(4-bromo-phenyl)-1-[3-(tert-butyl-diphenyl-silanyloxy)-azetidin-1-yl]-ethanone as a colourless glass (632 mg, 97%).

reactant | 4-bromophenyl acetylchloride | 1.28 mmol, 300 mg | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
reactant | 3-(tert-Butyl-diphenyl-silanyloxy)-azetidine | 1.28 mmol, 399 mg | C(C)(C)(C)[Si](OC1CNC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H25NOSi
reactant | DIPEA | 3.85 mmol, 670 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-phenyl)-1-[3-(tert-butyl-diphenyl-silanyloxy)-azetidin-1-yl]-ethanone | 632 mg, 97% | BrC1=CC=C(C=C1)CC(=O)N1CC(C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C27H30BrNO2Si
